US08026236B2
Acetyl chloride (0.008 ml) was added dropwise to a solution of 6-(4-(3-(isopropylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (15 mg) and diisopropylethylamine (0.031 ml) in THF (2 ml). The reaction mixture was stirred at room temperature for 1 hour. The product was then purified by acidic prep HPLC to give 6-{4-[3-(N-acetyl-N-isopropylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile. 1H NMR (DMSO) δ: 8.72 (s, 1H), 8.64 (s, 1H), 8.46-8.42 (m, 2H), 7.43 (t, 1H), 3.99 (s, 3H), 3.40+3.28 (2xt, 1H), 2.04-1.96 (m, 3H), 1.16-1.10 (dd, 6H). MS m/z 460 (M+H).

reactant | Acetyl chloride | 0.008 ml | C(C)(=O)Cl | C2H3ClO
reactant | 6-(4-(3-(isopropylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 15 mg | C(C)(C)NCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2)C(F)(F)F | C20H20F3N5O
reactant | diisopropylethylamine | 0.031 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-{4-[3-(N-acetyl-N-isopropylamino)propoxy]-3-(trifluoromethyl)-phenyl}-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | C(C)(=O)N(C(C)C)CCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C23H24F3N5O2
